### PR TITLE
[Merged by Bors] - feat(Algebra/Polynomial/Bivariate): Add lemmas about swap

### PR DESCRIPTION
**Pull request by justus-springer**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Bivariate.lean [hunk 1]
```diff
@@ -230,6 +233,17 @@ theorem Bivariate.swap_X : swap (R := R) (C X) = Y := by simp
 
 theorem Bivariate.swap_Y : swap (R := R) Y = (C X) := by simp
 
+theorem Bivariate.swap_CC (r : R) : swap (C (C r)) = C (C r) := by simp
```
Comment (b-mehta) [inline Mathlib/Algebra/Polynomial/Bivariate.lean]:
```suggestion
theorem Bivariate.swap_C_C (r : R) : swap (C (C r)) = C (C r) := by simp
```

Comment (b-mehta) [reply Mathlib/Algebra/Polynomial/Bivariate.lean]: or, you could write the theorem as `swap (CC r) = CC r`, and keep the name

**Review by riccardobrasca — COMMENTED** [review]
#Thanks!

bors merge
